Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Compazine / clonidine
 
Attending: ___
 
Chief Complaint:
The patient is a ___ yo Asian female with past hx of PTSD, 
anxiety and psychosis who self presents to the ED with thoughts 
of killing herself by overdosing.She is now homeless as of today 
and has become increasingly depressed over the last several 
months when her been roommate left and she can no longer afford 
the rent.
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ y/o F with a history of PTSD, anxiety and psychosis presents 
to ___ with thoughts of suicide by overdose or jumping off of 
a bridge in the setting of several months of worsening 
depression (after her roomate left her) and, the day of 
presentation, being evicted from her housing.

On interview in the ER the patient was dysphoric and irritable 
endorsing no will live, stating that she did not have an ID and 
could not stay in a shelter, and considering suicide.  Once 
reaching the floor she expanded on her suicidal thoughts 
mentioning that she was about to puruse a plan of overdose on
heroin on ___ before calling her PCP ___ 
encouraged her to go to the ER.  She states that since losing 
her roomate over a conflict surrounding her dog that she has 
felt depressed with low energy and lack of interest in life 
feelign taht she is "living a dead life."  Sleep is 8h on 
remeron, the patient feels guilt about life choices, and gets 
'knots in her
stomach' and other pains frequently (was admitted earlier this 
month to ___ for workup of this).  Memory, appetite, and 
concentration are good.  She repeatedly states how difficult it 
is to be on a psychiatric unit after (per her report) being 
raped by a psychiatrist; she also attributes the loss of her job 
and her current disability and PTSD to this incident.

The patient hopes that here in the hospital we can connect her 
with an ID and housing options. 

Course in Emergency Department: in good behavioral control, no 
acute issues
 
Past Medical History:
diagnoses: PTSD, anxiety, psychosis
hosptializations: ___ Ar___ Fuller for disorganized behavior,
agitation, paranoia (pt states an abuser had taken her klonopin
and she was in withdrawal)
 
Social History:
___
Family History:
Father committed suicide at ___ y/o
Son - substance abuse
Daughter - ?___

2 siblings: Brain aneurysms
Mother: Passed away at age ___ from brain cancer

 
Physical Exam:
VS:  BP: 119/84  HR: 87  temp: 97.9   resp: 16 O2 sat: 98RA 
height: 5'0"  weight: 128 lb
General- NAD, anxious
Skin- no rash or lesion
HEENT- nontraumatic, normocephalic
Neck and Back- no obvious deformity
Lungs- CTAB
CV- RRR no R/G/M
Abdomen: nontender, nondistended, BS normoactive
Extremities-
Neuro-
Cranial Nerves-
       II: PERRLA
      III, IV, VI: EOM intact
      V, VII: facial strength and sensation intact and symmetric
aside from mild sensory decrease reported on L side near temple
      VIII: hearing grossly intact
      IX, X: palatal elevation symmetric
      XI:  shoulder shrug symmetric
      XII:  tongue midline, no atrophy or fasciculations
Motor: full strength and symmetric throughout
*Deep tendon Reflexes: 2+ and symmetric at biceps, triceps,
brachioradialis, patellar, and calcaneal
Sensation: intact and symmetric to light touch and cold
throughout
Coordination:
     Finger-nose-finger intact
     Rapid alternating Movements intact
     Fine finger tapping intact
Gait: stable but slow

 
Pertinent Results:
___ 09:55AM BLOOD WBC-14.8* RBC-5.52* Hgb-16.3* Hct-47.7 
MCV-87 MCH-29.6 MCHC-34.2 RDW-13.1 Plt ___
___ 09:55AM BLOOD Neuts-67.3 ___ Monos-4.1 Eos-2.2 
Baso-1.2
___ 09:55AM BLOOD Plt ___
___ 09:55AM BLOOD Glucose-261* UreaN-15 Creat-1.0 Na-136 
K-4.3 Cl-100 HCO3-23 AnGap-17
___ 04:57AM BLOOD ALT-17 AST-16 AlkPhos-81 TotBili-0.1
___ 04:57AM BLOOD %HbA1c-7.9* eAG-180*
___ 04:57AM BLOOD TSH-1.9
___ 09:55AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
#Legal: ___
#Safety: remained on q15 min safety checks throughout with no 
behavior concerning for suicide or harm to others.

#Depression
The patient presented with depressed mood, low energy, anhedonia 
and low interest, and multiple somatic complaints with plan 
(reported to her PCP) to overdose on heroin (which she used 
previously) and end her life because of its purposelessness and 
the recent loss of her home.  On initial interview she was 
highly anxious, somatizing, and exhibited slowed and 
overinclusive speech consistent with depression NOS (adjustment 
d/o v MDD) and possible mild klonopin intoxication.

On admission the patient was taking remeron 30 mg HS, klonopin 2 
mg q6h, and tramadol.  The remeron was continued, klonopin was 
tapered from a total of 8 mg /day to 6 mg/day, and the team 
attempted to introduce effexor for improvement of depression.  
The patient frequently complained about the effexor stating that 
it caused blurred vision, dry mouth, burning of her skin, 
drowsiness, weakness in her legs, and joint pains and ultimately 
began to refuse it.

Throughout the patient's stay she was very somatically focused 
with frequent complaints (as above) about her medication.  She 
was also intitially irritable and standoffish with the team 
which improved through the course of her hospitalization.  By 
discharge the patient's suicidal thinking had resolved (with no 
further intent to overdose on heroin).  She reported better 
sleep and her speech appeared closer to a regular rate and 
rhythm with a much more linear (and less 
tangential/overinclusive) thought pattern.  She attributed her 
improvements to having found housing and made plans for ongoing 
care.

The patient refused any psychiatric or psychotherapy followup 
citing her rape by a psychiatrist in the ___; when offered a 
female psychiatrist or therapist she declined this as well.  She 
plans to followup with her PCP ___ ongoing care.  
Several calls were made to Dr. ___ (plus one email) 
but as of this writing team is still awaiting response; an 
appointment was scheduled for followup and Dr. ___ has 
access via OMR to the patient's notes and discharge summary.

#Heroin abuse in full remission
The patient has a history of heroin abuse in the past but has no 
evidence of recent use by history or toxicology screen.  She did 
consider commiting suicide by heroin overdose (in the past 
sniffed heroin) stating her friends can provide easy access to 
this.  Otherwise no issues surrounding substances of abuse.

#Diabetes
The patient had several glucose readings into the 200s and qid 
glucose checks with sliding scale insulin (low dose) was 
initiated.  Patient refused this and then refused all glucose 
checks.  Patient will follow up with her PCP on this issue.

Safety assessment: The patient presented with suicidal ideation 
with plan and intent to overdose on heroin.  During her stay 
modifiable risk factors that were addressed included:
housing - arranged for patient to have stable housing via social 
work
depression - stabilized on milieu, offered medication increase 
(refused) and therapy followup
suicidal ideation - patient's suicidal ideation resolved with no 
further intent or plan
social isolation - put patient in contact with sister and 
arranged for patient to do therapy intake (if she will agree to 
it)
Static risk factors include the patient's age, low functional 
status, and chronic mental illness.  Protective factors include 
the modifications above as well as absence of past suicide 
attempts, absence of active substance abuse issues.  The patient 
represents an appropriate level of risk for ongoing treatment in 
the outpatient setting.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ClonazePAM 2 mg PO QID 
2. Mirtazapine 30 mg PO HS 
3. Vitamin D 50,000 UNIT PO 1X/WEEK (SA) 
4. TraMADOL (Ultram) 50 mg PO Q8H:PRN headache 

 
Discharge Medications:
1. ClonazePAM 2 mg PO TID 
2. Mirtazapine 30 mg PO HS 
3. TraMADOL (Ultram) 25 mg PO BID:PRN headache 
4. Vitamin D 50,000 UNIT PO 1X/WEEK (SA) 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
  I  Depression NOS; PTSD by history
  II defer
  III DM2, headaches, carpal tunnel
  IV family conflicts, conflicts re housing and finances
  V GAF 60

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

VS 97.8   135/93   105   18   99RA
Short asian female appearing stated age with long greying hair 
dressed casually in t shirt and long pants.  Patient is 
irritable with treatment team but cooperates with interview, no 
pmr or pma noted, no abnormal tics or movements.  Speech 
approximates normal rate and rhythm.  Mood is 'better' with a 
somewhat anxious but reactive affect congruent with stated mood. 
 Thoughts are generally linear and future oriented with no 
suicidal ideation, no homicidal ideation, and no suggestion of 
delusion or psychosis.  Judgment is fair and insight into her 
condition is poor to fair.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.

-Please continue all medications as directed.

-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.

-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.

-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

-It was a pleasure to have worked with you, and we wish you the 
best of health.

 
Followup Instructions:
___